US04237133
4-cyclohexylbutyric acid (Aldrich) is reduced with excess lithium aluminum hydride in ether to yield 4-cyclohexyl-1-butanol (D. S. Hiers and R. Adams, J. Am. Chem. Soc., 48 2385 (1926)) which is chloro-methylated with hydrogen chloride and formaldehyde to yield the desired compound.

reactant | 4-cyclohexylbutyric acid | C1(CCCCC1)CCCC(=O)O | C10H18O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 4-cyclohexyl-1-butanol | C1(CCCCC1)CCCCO | C10H20O
